US07842694B2
3-Hydroxy-5-[(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
3-[(1-Methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[(phenylmethyl)oxy]benzamide (51 g; 0.14 mol) was dissolved in methanol (500 mL) and THF (500 mL) and the flask evacuated and purged with argon (3 times). 10% Palladium on carbon (5.1 g) was added and the flask further evacuated and finally purged with hydrogen gas. The reaction mixture was stirred at ambient temperature for 20 hours. The reaction mixture was evacuated and purged with nitrogen (3 times). The catalyst was filtered off through celite, and the filtrate concentrated in vacuo. Ethyl acetate was added and filtered to give the desired compound. (30.5 g). A second crop of material was obtained in the same way (4.0 g).

reactant | 3-[(1-Methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[(phenylmethyl)oxy]benzamide | 0.14 mol, 51 g | CC(C)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OCC1=CC=CC=C1 | C21H23N3O3
solvent | methanol | 500 mL | CO | CH4O
product | 3-Hydroxy-5-[(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC(C)C | C14H17N3O3
